US05728835
4-Nitro-N-(3-pyridyl)benzamide
Using 3-aminopyridine (1.55 g, 16.5 mmol) and 4-nitrobenzoic acid (2.5 g, 15.0 mmol), the procedure of Reference Example 16 was repeated to obtain 1.81 g (49.6%) of the title compound in the form of colorless powder.

reactant | 3-aminopyridine | 16.5 mmol, 1.55 g | NC=1C=NC=CC1 | C5H6N2
reactant | 4-nitrobenzoic acid | 15.0 mmol, 2.5 g | [N+](=O)([O-])C1=CC=C(C(=O)O)C=C1 | C7H5NO4
product | 4-Nitro-N-(3-pyridyl)benzamide | 1.81 g, 49.6% | [N+](=O)([O-])C1=CC=C(C(=O)NC=2C=NC=CC2)C=C1 | C12H9N3O3
